US03940418
A mixture of 5 parts of 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylic acid and 50 parts of thionyl chloride is heated on a steam bath until evolution of sulfur dioxide ceases. The excess thionyl chloride is then removed under reduced pressure and 50 parts of benzene is added to the resulting residue. The benzene is then distilled off under reduced pressure and the new residue is dissolved in 50 parts of benzene and 5 parts 2-diethylaminoethanol is added with stirring. The mixture is allowed to become warm and it is allowed to stand for 1 hour. Excess 2-diethylaminoethanol is distilled off under reduced pressure and the residue is partitioned with dilute hydrochloric acid and ether. The aqueous layer is separated and washed twice with ether before it is made alkaline with dilute sodium hydroxide and extracted with ether. The resulting ether solution is dried over potassium carbonate and concentrated. The residue obtained is 2-diethylaminoethyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate. It is dissolved in anhydrous ethanol and a slight excess of hydrogen chloride in 2-propanol is added. Anhydrous ether is then added until the mixture becomes tubid and it is then cooled. The crystals which form are separated by filtration and recrystallized from a mixture of anhydrous ethanol and anhydrous ether to give 2-diethylaminoethyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate hydrochloride melting at about 190°-192°C. The free base of this compound has the following formula ##SPC5##

reactant | 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylic acid | ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)O)C1 | C18H13ClN2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | 2-diethylaminoethyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate | ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)OCCN(CC)CC)C1 | C24H26ClN3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 2-diethylaminoethyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate hydrochloride | Cl.ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)OCCN(CC)CC)C1 | InChI=1S/C24H26ClN3O2.ClH/c1-3-27(4-2)14-15-30-24(29)22-21-12-10-17-16-18(25)11-13-20(17)23(21)28(26-22)19-8-6-5-7-9-19;/h5-9,11,13,16H,3-4,10,12,14-15H2,1-2H3;1H
